US04303655
A mixture of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl7-[2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-tetrahydropyranyl)oxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, (0.85 g.), ethanol (15 ml.), water (5 ml.) and 2 N hydrochloric acid (5 ml.) was stirred for 2.5 hours at room temperature. After the reaction, the reaction mixture was diluted with water (20 ml.), adjusted to pH 8 with 5% sodium bicarbonate aqueous solution and then washed with diethyl ether. Thus obtained aqueous layer was adjusted to pH 4 to 5 with 10% hydrochloric acid and washed with ethyl acetate. The aqueous layer was adjusted to pH 1 to 2 with 10% hydrochloric acid and then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. The solvent was distilled off from the extract, and the residue was washed in diethyl ether, collected by filtration and then dried to give pale brown powder of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-hydroxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-hydroxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid, (0.2 g.), mp. 120° to 146° C. (dec.).

reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl7-[2-(2-tetrahydropyranyl)oxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2N=C(SC2)NS(=O)(=O)C)OC2OCCCC2)=O)=O | C21H26N8O8S4
reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-tetrahydropyranyl)oxy-2-(2-mesylimino-2,3-dihydro-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | 0.85 g | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2NC(SC2)=NS(=O)(=O)C)OC2OCCCC2)=O)=O | C21H26N8O8S4
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 2 N, 5 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 20 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-hydroxy-2-(2-mesylamino-1,3-thiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(C=2N=C(SC2)NS(=O)(=O)C)O)=O)=O | C16H18N8O7S4
